US08445515B2
A mixture of N-(3-tert-butylphenyl)-2-(3-fluorophenyl)nicotinamide (501.2 mg, 1.4 mmol), platinum oxide (51.9 mg, 0.21 mmol), and concentrated HCl (400 μL, 5.2 mmol) in 5 mL of ethanol was stirred vigorously under hydrogen balloon overnight. The mixture was filtered, and the solids washed with 25 mL of methanol three times. The combined solution was dried under reduced pressure. To the residue was added 30 mL of saturated sodium bicarbonate and 150 mL of EtOAc. The organic layer was separated, and dried over sodium sulfate. Evaporation of solvent gave the crude 2-(3-fluorophenyl)piperidine-3-carboxylic acid (3-tert-butylphenyl)amide as a brown solid, which was taken on directly to the next step. MS: (ES) m/z 355.7 (M+H+).

reactant | N-(3-tert-butylphenyl)-2-(3-fluorophenyl)nicotinamide | 1.4 mmol, 501.2 mg | C(C)(C)(C)C=1C=C(C=CC1)NC(C1=C(N=CC=C1)C1=CC(=CC=C1)F)=O | C22H21FN2O
reactant | HCl | 5.2 mmol, 400 μL | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | platinum oxide | 0.21 mmol, 51.9 mg | [Pt]=O
product | 2-(3-fluorophenyl)piperidine-3-carboxylic acid (3-tert-butylphenyl)amide | C(C)(C)(C)C=1C=C(C=CC1)NC(=O)C1C(NCCC1)C1=CC(=CC=C1)F | C22H27FN2O
